US08754100B2
Synthesis of 1,1,1-trifluoro-2-(4-methoxy-3-methylphenyl)-propane-2-ol
Trimethyl-[2,2,2-trifluoro-1-(4-methoxy-3-methylphenyl)-1-methylethoxy]silane (711 mg) was dissolved in THF (20 ml) and 1N HCl solution (20 ml) was added. After stirring at room temperature for 6 days, water and ethyl acetate were added to the reaction mixture and the organic layer was separated. The obtained organic layer was washed with brine and dried over anhydrous magnesium sulfate. After removing the drying agent, the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane→heptane:ethyl acetate 7:3) to obtain the title compound (442 mg). The property values of the obtained compound are as follows; 1H-NMR (CDCl3) δ (ppm): 1.76 (s, 3H), 2.24 (s, 3H), 3.84 (s, 3H), 6.83 (d, J=8.4 Hz, 1H), 7.34-7.37 (m, 2H).

reactant | Trimethyl-[2,2,2-trifluoro-1-(4-methoxy-3-methylphenyl)-1-methylethoxy]silane | 711 mg | C[Si](OC(C(F)(F)F)(C)C1=CC(=C(C=C1)OC)C)(C)C | C14H21F3O2Si
reactant | HCl | 1N, 20 ml | Cl | ClH
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1,1,1-trifluoro-2-(4-methoxy-3-methylphenyl)-propane-2-ol | 442 mg | FC(C(C)(O)C1=CC(=C(C=C1)OC)C)(F)F | C11H13F3O2
